US08084478B2
iii) Ethyl cis-4-(4-{[methoxy(oxo)acetyl]amino}phenoxy)cyclohexanecarboxylate
Methyl chlorooxoacetate (2.41 mL, 26.1 mmol) was added dropwise over 2 mins to a stirred solution of ethyl cis-4-(4-aminophenoxy)cyclohexanecarboxylate (6.24 g, 23.7 mmol) and diisopropylethylamine (8.25 mL, 47.4 mmol) in DCM (200 mL) and the reaction mixture was stirred at ambient temperature for 16 h. Water (75 mL) was added and the layers were separated. The organic layer was washed with an aqueous solution of hydrochloric acid (1M, 75 mL) and then a saturated aqueous solution of sodium hydrogen carbonate (75 mL), dried (MgSO4) and concentrated in vacuo to provide the title compound as a white solid (8.23 g, 100%).

reactant | Methyl chlorooxoacetate | 26.1 mmol, 2.41 mL | ClC(C(=O)OC)=O | C3H3ClO3
reactant | ethyl cis-4-(4-aminophenoxy)cyclohexanecarboxylate | 23.7 mmol, 6.24 g | NC1=CC=C(O[C@H]2CC[C@H](CC2)C(=O)OCC)C=C1 | C15H21NO3
reactant | diisopropylethylamine | 47.4 mmol, 8.25 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | Water | 75 mL | O | H2O
solvent | DCM | 200 mL | C(Cl)Cl | CH2Cl2
product | Ethyl cis-4-(4-{[methoxy(oxo)acetyl]amino}phenoxy)cyclohexanecarboxylate | 8.23 g, 100% | COC(C(=O)NC1=CC=C(O[C@H]2CC[C@H](CC2)C(=O)OCC)C=C1)=O | C18H23NO6
